US09193707B2
6. Synthesis of 2-[4-(acetamidomethyl)phenyl]quinazoline-4-carboxylic acid
Into a 500-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 2-[4-(aminomethyl)phenyl]quinazoline-4-carboxylic acid (2.6 g, 9.31 mmol, 1.00 equiv), oxolane (200 mL) and acetyl acetate (20 mL). The resulting solution was stirred for 3 h at 25° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (20:1-5:1). This resulted in 500 mg (17%) of 2-[4-(acetamidomethyl)phenyl]quinazoline-4-carboxylic acid as a light yellow solid. MS (ESI) m/z 322 ([M+H]+).

reactant | 2-[4-(aminomethyl)phenyl]quinazoline-4-carboxylic acid | 9.31 mmol, 2.6 g, 1.00 equiv | NCC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C16H13N3O2
reactant | acetyl acetate | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | oxolane | 200 mL | O1CCCC1 | C4H8O
product | 2-[4-(acetamidomethyl)phenyl]quinazoline-4-carboxylic acid | C(C)(=O)NCC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C18H15N3O3
